US05892048
To a solution of 0.9 g of 5-{4-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-α-hydroxybenzyl}-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole in 10 ml of benzene at room temperature, were added 0.85 g of diethylaminosulfur trifluoride (DAST). After stirring at room temperature for 1 hour, the reaction mixture was poured into iced water and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous sodium hydrogen carbonate and then with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to afford 0.8 g of 5-{4-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-α-fluorobenzyl}-3-(2-chloro-6-fluorophenyl)-1 methyl-1H-1,2,4-triazole.

reactant | 5-{4-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-α-hydroxybenzyl}-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 0.9 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C(O)C2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C22H14Cl2F4N4O2
reactant | diethylaminosulfur trifluoride | 0.85 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 5-{4-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-α-fluorobenzyl}-3-(2-chloro-6-fluorophenyl)-1 methyl-1H-1,2,4-triazole | 0.8 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C(F)C2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C22H13Cl2F5N4O
